US04296129
N-Decyl-3-(3-[cis-3-(2-[N,N-diethylamino]ethoxycarbonyl)propenamido]phenyl)propenamide
To a stirred solution of 800 mg. of N-decyl-3-(3-[cis-3-carboxypropenamido]phenyl)propenamide in 25 ml. of tetrahydrofuran is added 357 mg. of carbonyldiimidazole. The mixture is heated under reflux for 10 minutes, and then 258 mg. of 2-(N,N-diethylamino)ethanol is added. The mixture is again heated under reflux for 10 minutes, and then an additional 258 mg. of 2-(N,N-diethylamino)ethanol is added. The mixture is heated under reflux for 15 minutes and then it is cooled to room temperature. The solvent is removed by evaporation in vacuo, and the residue is dissolved in 75 ml. of ethyl acetate. The ethyl acetate solution is washed successively with water, 1 N sodium hydroxide, water and saturated sodium chloride solution. The ethyl acetate solution is then dried and evaporated in vacuo to give the title compound.

reactant | N-decyl-3-(3-[cis-3-carboxypropenamido]phenyl)propenamide | C(CCCCCCCCC)NC(C=CC1=CC(=CC=C1)NC(\C=C/C(=O)O)=O)=O | C23H32N2O4
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(N,N-diethylamino)ethanol | C(C)N(CC)CCO | C6H15NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-Decyl-3-(3-[cis-3-(2-[N,N-diethylamino]ethoxycarbonyl)propenamido]phenyl)propenamide | C(CCCCCCCCC)NC(C=CC1=CC(=CC=C1)NC(\C=C/C(=O)OCCN(CC)CC)=O)=O | C29H45N3O4
